US06468487B1
In an atmosphere of nitrogen, 10 mmole of 1-carboxy-3-nitroadamantane obtained by the method of Example 42 was dissolved in 10ml of DMF. To the mixture, 15 mmole of acetyl chloride was added dropwise over 30 minutes. The mixture was heated to begin to reflux around the conclusion of the addition. After refluxing for 2 hours, the mixture was cooled, 20 mmole of triethylamine was added, and then 11 mmole of methanol was added dropwise over 30 minutes while retaining the temperature of the mixture at 10° C. or less followed by stirring for more 2 hours. As a result, the conversion of 1-carboxy-3-nitroadamantane was 99%, and 1-methoxycarbonyl-3-nitroadamantane (yield 95%) was formed.

reactant | acetyl chloride | 15 mmole | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 20 mmole | C(C)N(CC)CC | C6H15N
reactant | methanol | 11 mmole | CO | CH4O
reactant | 1-carboxy-3-nitroadamantane | C(=O)(O)C12CC3(CC(CC(C1)C3)C2)[N+](=O)[O-] | C11H15NO4
solvent | DMF | 10ml | CN(C)C=O | C3H7NO
product | 1-methoxycarbonyl-3-nitroadamantane | yield 95% | COC(=O)C12CC3(CC(CC(C1)C3)C2)[N+](=O)[O-] | C12H17NO4
